US08633182B2
Step 3. 2-Bromo-5-(1-methanesulfonyl-cyclopropylmethoxy)-1,3-dimethyl-benzene
4-bromo-3,5-dimethylphenol, (306 mg, 1.52 mmol), (1-Methanesulfonyl-cyclopropyl)-methanol (228 mg, 1.52 mmol), and triphenylphosphine (399 mg, 1.52 mmol) are suspended in dry tetrahydrofuran (10 mL) and cooled to 0° C. Di-tert-butylazodicarboxylate (350 mg, 1.52 mmol) is added and the mixture stirred at 50° C. for 48 hours then at room temperature for a further 48 hours. The mixture is concentrated under vacuum then partitioned between water and dichloromethane, The organic phase is dried and the solvent removed under vacuum. The residue is purified by flash chromatography (0-20% ethyl acetate in cyclohexane) to give the title compound as a crude material which was used without further purification (Yield 664 mg).

reactant | 4-bromo-3,5-dimethylphenol | 1.52 mmol, 306 mg | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | (1-Methanesulfonyl-cyclopropyl)-methanol | 1.52 mmol, 228 mg | CS(=O)(=O)C1(CC1)CO | C5H10O3S
reactant | triphenylphosphine | 1.52 mmol, 399 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Di-tert-butylazodicarboxylate | 1.52 mmol, 350 mg | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Bromo-5-(1-methanesulfonyl-cyclopropylmethoxy)-1,3-dimethyl-benzene | BrC1=C(C=C(C=C1C)OCC1(CC1)S(=O)(=O)C)C | C13H17BrO3S
